US08871797B2
To a solution of N-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide (0.85 g, 3.7 mmol) in THF (40 mL), triphenyl phosphine (2.91 g, 11.1 mmol) and 2-dimethylamino ethanol (1.11 mL, 11.1 mmol) were added followed by dropwise addition of diisopropyl azodicarboxylate (DIAD) (2.15 mL, 11.1 mmol). The reaction mixture was stirred at room temperature for 2 hours, concentrated to give a crude product that was subjected to a purification on preparative HPLC. The corresponding fractions were collected, neutralized with 1N NaOH and extracted with EtOAc four times to afford N-[4-(2-dimethylamino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide as a colorless waxy solid in 51.2% yield. LCMS m/z (%)=303 (M+H, 100). 1H NMR (400 MHz, DMSO-d6) δ: 9.94 (s, 1H), 7.63 (d, J=8.93 Hz, 1H), 7.52 (s, 1H), 7.46 (s, 1H), 7.14 (d, J=8.98 Hz, 1H), 6.25 (s, 1H), 4.07 (t, J=5.82 Hz, 2H), 3.69 (s, 3H), 2.56 (t, J=5.80 Hz, 2H), 2.15 (s, 6H), 2.05 (s, 3H).

reactant | N-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 3.7 mmol, 0.85 g | OC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C | C12H13N3O2
reactant | triphenyl phosphine | 11.1 mmol, 2.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-dimethylamino ethanol | 11.1 mmol, 1.11 mL | CN(CCO)C | C4H11NO
reactant | diisopropyl azodicarboxylate | 11.1 mmol, 2.15 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-[4-(2-dimethylamino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 51.2% yield | CN(CCOC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C)C | C16H22N4O2
